US08049015B2
3-[(N-Benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-(5-carboxymethyl-pyridin-3-yl)-benzoic acid benzyl ester (1.74 g, 3.2 mmol) in EtOH (200 mL) was treated with sulfuric acid (2 mL), and the reaction was stirred at 95° C. for 2 hours. The mixture was cooled to room temperature and concentrated, and the residue was partitioned between EtOAc and H2O. The solution was extracted with EtOAc, and the combined organic layers were washed with 1N aqueous HCl and concentrated. The crude material was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give 3-[(N-benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-(5-ethoxycarbonylmethyl-pyridin-3-yl)-benzoic acid ethyl ester.

reactant | 3-[(N-Benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-(5-carboxymethyl-pyridin-3-yl)-benzoic acid benzyl ester | 3.2 mmol, 1.74 g | C(C1=CC=CC=C1)OC(C1=CC(=C(C=C1)C=1C=NC=C(C1)CC(=O)O)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C32H30N2O6
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | EtOH | 200 mL | CCO | C2H6O
product | 3-[(N-benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-(5-ethoxycarbonylmethyl-pyridin-3-yl)-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)C=1C=NC=C(C1)CC(=O)OCC)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C29H32N2O6
